US05302727
A solution of 2.56 g (0.01 mol) of 2-(3,4-dimethoxyphenyl)-m-dithiane in 20 ml of abs. tetrahydrofuran was cooled to -60° in a sulphonation flask while gassing with dry argon and treated dropwise within 15 minutes with 4.68 ml (0.0075 mol) of a solution of butyllithium in hexane, whereby the temperature was held at -60°. Thereafter, the solution was stirred at -20° for 2 hours, then again cooled to -60° and treated dropwise with a solution of 1.70 g (0.005 mol) of N-(3-chloropropyl)-1-(3,4-dimethoxyphenyl)-N-methylcyclohexanemethanamine in 20 ml of abs. tetrahydrofuran. After 16 hours at -20° and 4 hours at room temperature the solution was poured on to ice-water and the mixture was washed three times with ether. The ethereal extracts were dried over magnesium sulphate, filtered and evaporated under reduced pressure. The residual oil was chromatographed on silica gel 60 with toluene/ethyl acetate (8:2 ). After evaporation of the solvent there was obtained a colourless oil which was dissolved in a small amount of abs. dioxan and treated with an excess of hydrogen chloride in abs. dioxan, whereby N-[[1-(3,4-dimethoxyphenyl)cyclohexyl]methyl]-2-(3,4-dimethoxyphenyl)-N-methyl-m-dithiane-2-propanamine hydrochloride was obtained as a solid white foam.

reactant | 2-(3,4-dimethoxyphenyl)-m-dithiane | 0.01 mol, 2.56 g | COC=1C=C(C=CC1OC)C1SCCCS1 | C12H16O2S2
reactant | butyllithium | C(CCC)[Li]
reactant | N-(3-chloropropyl)-1-(3,4-dimethoxyphenyl)-N-methylcyclohexanemethanamine | 0.005 mol, 1.70 g | ClCCCN(CC1(CCCCC1)C1=CC(=C(C=C1)OC)OC)C | C19H30ClNO2
reactant | hydrogen chloride | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | dioxan | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[[1-(3,4-dimethoxyphenyl)cyclohexyl]methyl]-2-(3,4-dimethoxyphenyl)-N-methyl-m-dithiane-2-propanamine hydrochloride | Cl.COC=1C=C(C=CC1OC)C1(CCCCC1)CN(CCCC1(SCCCS1)C1=CC(=C(C=C1)OC)OC)C | InChI=1S/C31H45NO4S2.ClH/c1-32(23-30(15-7-6-8-16-30)24-11-13-26(33-2)28(21-24)35-4)18-9-17-31(37-19-10-20-38-31)25-12-14-27(34-3)29(22-25)36-5;/h11-14,21-22H,6-10,15-20,23H2,1-5H3;1H
